US08703784B2
To a suspension of MePh3PBr (37.1 g, 104 mmol) in THF (500 mL) at 0° C. was added slowly LDA (1.2 eq) over 1 h. The resulting orange solution was stirred for 30 min before ethyl 4-oxocyclohexanecarboxylate (16.1 g, 94.4 mmol) was added dropwise. The resulting suspension was warmed to rt and stirred overnight (may not necessary). A saturated NH4Cl (aq) was added and THF was removed. The aqueous residue was extracted with EtOAc (100*3). The combined organic layers were washed with brine, dried over Na2SO4 and concentrated. The residue was purified by passing through a short silica gel plug (hexanes/EtOAc 7:1). After being concentrated, ethyl 4-methylenecyclohexanecarboxylate was obtained as pale yellow oil (12.1 g, 76%).

reactant | LDA | 1.2 eq | [Li+].CC(C)[N-]C(C)C
reactant | ethyl 4-oxocyclohexanecarboxylate | 94.4 mmol, 16.1 g | O=C1CCC(CC1)C(=O)OCC | C9H14O3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | ethyl 4-methylenecyclohexanecarboxylate | C=C1CCC(CC1)C(=O)OCC | C10H16O2
